US05242904
Boc-Leu-Gly-Leu-Ala-OBzl was prepared by coupling Boc-Leu-OH (2.62 g, 10.5 mmoles) to H-Gly-Leu-Ala-OBzl using the mixed anhydride procedure described in Example 2. The resulting product was crystallized from ethyl acetate:hexane to yield 2.7 g (mp 95°-96°) in the first crop.

reactant | Boc-Leu-OH | 10.5 mmoles, 2.62 g | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
reactant | H-Gly-Leu-Ala-OBzl | NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)OCC1=CC=CC=C1 | C18H27N3O4
product | Boc-Leu-Gly-Leu-Ala-OBzl | N([C@@H](CC(C)C)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C29H46N4O7
